US06177400B1
Preparation of 1-(2,2,4-trimethyl-1-cyclohexyl)-2-buten-1-one
2,2,4-Trimethyl-1-cyclohexanecarbaldehyde (11 g, 72 mmole) in ether (100 ml) was added dropwise with stirring to a Grignard compound prepared from Mg (2.3 g) and allylbromide (10 g) in ether and refluxed for 2 h. After cooling, the mixture was hydrolyzed with NH4Cl-solution, then distilled at a bath temperature of 150°/0.5 hPa, to obtain 11.3 g (80%) of the desired product as a 2:1 mixture of 2 isomers.

reactant | 2,2,4-Trimethyl-1-cyclohexanecarbaldehyde | 72 mmole, 11 g | CC1(C(CCC(C1)C)C=O)C | C10H18O
reactant | allylbromide | 10 g | C(C=C)Br | C3H5Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(2,2,4-trimethyl-1-cyclohexyl)-2-buten-1-one | 11.3 g, 80% | CC1(C(CCC(C1)C)C(C=CC)=O)C | C13H22O
